US06844347B1
2-(4-Chlorophenyl)-6-isopropyl-4-morpholinopyrimidine
A mixture of 267 mg of 4-chloro-2-(4-chlorophenyl)-6-isopropylpyrimidine and 522 mg of morpholine was heated at 130° C. for 2 hours. After cooling, 20 ml of water were added, the mixture was stirred, and the solid was filtered off with suction and dried at 50° C. in vacuo. Yield: 0.28 g.

reactant | 4-chloro-2-(4-chlorophenyl)-6-isopropylpyrimidine | 267 mg | ClC1=NC(=NC(=C1)C(C)C)C1=CC=C(C=C1)Cl | C13H12Cl2N2
reactant | morpholine | 522 mg | N1CCOCC1 | C4H9NO
solvent | water | 20 ml | O | H2O
product | 2-(4-Chlorophenyl)-6-isopropyl-4-morpholinopyrimidine | ClC1=CC=C(C=C1)C1=NC(=CC(=N1)N1CCOCC1)C(C)C | C17H20ClN3O
